US08349851B2
To a solution of ethyl 4-chloroquinazoline-2-carboxylate (0.250 g, 1.05 mmol) in DMF (2.5 mL) at rt under argon were added potassium iodide (0.192 g, 1.16 mmol), DIEA (0.238 mL, 1.37 mmol), and 1H-pyrazol-3-amine (0.113 g, 1.37 mmol). The mixture was stirred at rt for 5 h and diluted with H2O (5 mL). The precipitate was collected by filtration, washed with H2O, and dried under high vacuum for several hours to afford ethyl 4-(1H-pyrazol-3-ylamino)quinazoline-2-carboxylate as a tan solid (0.190 g, 64%). 1H NMR (300 MHz, DMSO-d6) δ 12.52 (s, 1H), 10.58 (s, 1H), 8.72 (d, 1H), 7.90 (d, 2H), 7.78 (s, 1H), 7.68 (m, 1H), 7.18 (s, 1H), 4.48 (q, 2H), 1.48 (t, 3H); LC-MS (ESI) m/z 284 (M+H)+.

reactant | ethyl 4-chloroquinazoline-2-carboxylate | 1.05 mmol, 0.250 g | ClC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C11H9ClN2O2
reactant | potassium iodide | 1.16 mmol, 0.192 g | [I-].[K+]
reactant | DIEA | 1.37 mmol, 0.238 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1H-pyrazol-3-amine | 1.37 mmol, 0.113 g | N1N=C(C=C1)N | C3H5N3
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | H2O | 5 mL | O | H2O
product | ethyl 4-(1H-pyrazol-3-ylamino)quinazoline-2-carboxylate | 0.190 g, 64% | N1N=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C(=O)OCC | C14H13N5O2
